**D-Flipflop
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N



VDD vdd gnd 1.8
Vin D gnd PULSE(0 1.8 5n 0 0 7.5n 15n)
Vclk clk gnd 0

* SPICE3 file created from D_FF.ext - technology: scmos

.option scale=0.09u

M1000 a_135_n69# Y gnd Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=600 ps=280
M1001 X clk a_23_n27# w_10_n34# CMOSP w=90 l=2
+  ad=450 pd=190 as=540 ps=192
M1002 Q_bar clk a_135_n69# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1003 a_23_n27# D vdd w_10_n34# CMOSP w=90 l=2
+  ad=0 pd=0 as=1200 ps=520
M1004 Q Q_bar gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1005 Q Q_bar vdd w_182_n34# CMOSP w=50 l=2
+  ad=250 pd=110 as=0 ps=0
M1006 Y clk vdd w_62_n20# CMOSP w=50 l=2
+  ad=250 pd=110 as=0 ps=0
M1007 a_75_n69# clk gnd Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1008 Q_bar Y vdd w_122_n20# CMOSP w=50 l=2
+  ad=250 pd=110 as=0 ps=0
M1009 Y X a_75_n69# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1010 X D gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
C0 w_122_n20# vdd 0.09fF
C1 Q gnd 0.21fF
C2 Y a_75_n69# 0.41fF
C3 vdd w_182_n34# 0.09fF
C4 Y w_62_n20# 0.08fF
C5 D vdd 0.03fF
C6 Q_bar a_135_n69# 0.41fF
C7 Q_bar gnd 0.23fF
C8 D clk 0.30fF
C9 Q w_182_n34# 0.07fF
C10 a_23_n27# w_10_n34# 0.01fF
C11 gnd a_75_n69# 0.41fF
C12 Y w_122_n20# 0.08fF
C13 gnd a_135_n69# 0.41fF
C14 Q_bar w_122_n20# 0.08fF
C15 X clk 0.12fF
C16 D w_10_n34# 0.08fF
C17 Q_bar w_182_n34# 0.07fF
C18 w_10_n34# X 0.12fF
C19 a_75_n69# X 0.05fF
C20 vdd clk 0.40fF
C21 Q vdd 0.52fF
C22 gnd X 0.26fF
C23 vdd w_10_n34# 0.13fF
C24 Y vdd 0.66fF
C25 a_23_n27# X 0.93fF
C26 w_10_n34# clk 0.08fF
C27 Q_bar vdd 0.54fF
C28 Y clk 0.41fF
C29 vdd w_62_n20# 0.09fF
C30 Q_bar clk 0.07fF
C31 Q_bar Q 0.05fF
C32 w_62_n20# clk 0.08fF
C33 a_135_n69# clk 0.05fF
C34 gnd clk 0.05fF
C35 vdd a_23_n27# 0.93fF
C36 a_135_n69# Gnd 0.01fF
C37 a_75_n69# Gnd 0.01fF
C38 gnd Gnd 0.97fF
C39 Q Gnd 0.11fF
C40 Q_bar Gnd 0.62fF
C41 Y Gnd 1.67fF
C42 X Gnd 0.22fF
C43 vdd Gnd 2.01fF
C44 clk Gnd 0.47fF
C45 D Gnd 0.16fF
C46 w_182_n34# Gnd 0.09fF
C47 w_122_n20# Gnd 1.49fF
C48 w_62_n20# Gnd 1.62fF
C49 w_10_n34# Gnd 3.31fF

.ic V(X)=0 V(Y)=0 V(P)=0 V(Q)=0 V(Q_bar)=1

.control
tran 0.1n 100n
set hcopypscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))
run
plot v(X) v(D)+2

meas tran D_50_rise  WHEN v(D)=0.9 RISE=2
meas tran X_50_rise  WHEN v(X)=0.9 FALL=2
let T_setup_rise = X_50_rise - D_50_rise
meas tran D_50_fall  WHEN v(D)=0.9 FALL=1
meas tran X_50_fall  WHEN v(X)=0.9 RISE=2
let T_setup_fall = X_50_fall - D_50_fall
let t_su = abs(T_setup_rise/2) + abs(T_setup_fall/2)
print t_su
.endc
.end

* in_50_rise          =  5.050000e-09
* w12_50_rise         =  5.093190e-09
* in_50_fall          =  1.265000e-08
* w12_50_fall         =  1.270280e-08

* T_setup_rise  =  43.19psec
* T_setup_fall  =  52.80psec