* SPICE3 file created from NAND2.ext - technology: scmos
.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
V_B B gnd PULSE(0 {VDD_val} 2n 100p 100p 8n 16n)
VDD vdd gnd 1.8

* SPICE3 file created from NAND2.ext - technology: scmos

.option scale=0.09u

M1000 Y B a_n15_n63# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=240 ps=92
M1001 vdd B Y w_n28_n3# CMOSP w=50 l=2
+  ad=500 pd=220 as=300 ps=112
M1002 Y A vdd w_n28_n3# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_n15_n63# A gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=200 ps=90
C0 vdd w_n28_n3# 0.18fF
C1 A Y 0.01fF
C2 Y w_n28_n3# 0.02fF
C3 Y vdd 1.09fF
C4 B gnd 0.04fF
C5 B A 0.38fF
C6 B w_n28_n3# 0.06fF
C7 A w_n28_n3# 0.06fF
C8 B Y 0.21fF
C9 gnd Gnd 0.26fF
C10 Y Gnd 0.12fF
C11 vdd Gnd 0.06fF
C12 B Gnd 0.27fF
C13 A Gnd 0.24fF
C14 w_n28_n3# Gnd 1.99fF


.tran 10p 50n
.control
set hcopYpscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))

run
set curplottitle="2024102070  2 input NAND Gate using CMOS Post Layout using Magic"
 
plot V(A)+4 V(B)+2 V(Y)
let half_vdd = 0.9

meas tran t_A_rise WHEN V(A)=half_vdd RISE=1
meas tran t_Y_fall_A WHEN V(Y)=half_vdd FALL=1 TD=2n
let tp_A = t_Y_fall_A - t_A_rise

meas tran t_B_rise WHEN V(B)=half_vdd RISE=1
meas tran t_Y_fall_B WHEN V(Y)=half_vdd FALL=1 TD=5n
let tp_B = t_Y_fall_B - t_B_rise


meas tran tphl trig v(a) val=0.9 rise=1 targ v(y) val=0.9 fall=1
meas tran tplh trig v(b) val=0.9 fall=1 targ v(y) val=0.9 rise=1

let tp_avg = (tphl + tplh) / 2
let tp_max = max(tp_A, tp_B)
let tp_min = min(tp_A, tp_B)

print tphl tplh tp_avg
.endc
